US07781436B2
2-{6-Chloro-3-[4-(2-trifluoromethyl-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-1-(4-methyl-piperazin-1-yl)-ethanone
Analogous to general procedure II, the alkylation of (6-chloro-1H-indol-3-yl)-[4-(2-trifluoromethyl-phenyl)-piperidin-1-yl]-methanone (prepared herein) with (commercially available) 2-chloro-1-(4-methyl-piperazin-1-yl)-ethanone gave the title compound.

reactant | (6-chloro-1H-indol-3-yl)-[4-(2-trifluoromethyl-phenyl)-piperidin-1-yl]-methanone | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCC(CC1)C1=C(C=CC=C1)C(F)(F)F | C21H18ClF3N2O
reactant | 2-chloro-1-(4-methyl-piperazin-1-yl)-ethanone | ClCC(=O)N1CCN(CC1)C | C7H13ClN2O
product | 2-{6-Chloro-3-[4-(2-trifluoromethyl-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-1-(4-methyl-piperazin-1-yl)-ethanone | ClC1=CC=C2C(=CN(C2=C1)CC(=O)N1CCN(CC1)C)C(=O)N1CCC(CC1)C1=C(C=CC=C1)C(F)(F)F | C28H30ClF3N4O2
